US09278944B2
Benzyl (3-{5-[1-(cyclopropylamino)ethyl]-2-methoxyphenyl}prop-2-yn-1-yl)carbamate and (2R)-4-(tert-butoxycarbonyl)morpholine-2-carboxylic acid were treated in the similar manner to Example 162 to give tert butyl (2R)-2-{[{1-[3-(3-{[(benzyloxy)carbonyl]amino}prop-1-yn-1-yl)-4-methoxyphenyl]ethyl}(cyclopropyl)amino]carbonyl}morpholine-4-carboxylate [Ex(295-3)] as a colorless solid.

reactant | Benzyl (3-{5-[1-(cyclopropylamino)ethyl]-2-methoxyphenyl}prop-2-yn-1-yl)carbamate | C1(CC1)NC(C)C=1C=CC(=C(C1)C#CCNC(OCC1=CC=CC=C1)=O)OC | C23H26N2O3
reactant | (2R)-4-(tert-butoxycarbonyl)morpholine-2-carboxylic acid | C(C)(C)(C)OC(=O)N1C[C@@H](OCC1)C(=O)O | C10H17NO5
product | tert butyl (2R)-2-{[{1-[3-(3-{[(benzyloxy)carbonyl]amino}prop-1-yn-1-yl)-4-methoxyphenyl]ethyl}(cyclopropyl)amino]carbonyl}morpholine-4-carboxylate | C(C1=CC=CC=C1)OC(=O)NCC#CC=1C=C(C=CC1OC)C(C)N(C(=O)[C@H]1CN(CCO1)C(=O)OC(C)(C)C)C1CC1 | C33H41N3O7
